### PR TITLE
cancel_badged_sends_corres

### PR DESCRIPTION
**Pull request by michaelmcinerney**
This proves cancel_badged_sends_corres.

There's a rather large detour to introduce valid_tcbs and valid_tcbs'. This is perhaps overkill for this current proof, but might be a good experiment if we are wanting to move more in this direction in the future. I didn't get any comments on my definitions on Mattermost, so please let me know what you think of them.

There are of course a tonne of lemmas that could be moved, and many could be made available in AInvs. If this idea is a good one, I can certainly move them wherever people would like them

### CODE REVIEW

File: proof/refine/ARM/IpcCancel_R.thy [hunk 1]
```diff
@@ -219,24 +251,160 @@ lemma reply_unlink_tcb_corres:
...
+
+lemma update_valid_tcb:
+  "valid_tcb ptr tcb s \<Longrightarrow> valid_tcb ptr tcb (s\<lparr>ready_queues := a\<rparr>)"
+  "valid_tcb ptr tcb s \<Longrightarrow> valid_tcb ptr tcb (s\<lparr>scheduler_action := b\<rparr>)"
+  apply (clarsimp simp: valid_tcb_def valid_tcb_state_def obj_at_def split: thread_state.splits)
+  apply (intro conjI impI)
+  apply (case_tac "tcb_state tcb"; clarsimp?)
+  apply (clarsimp simp: obj_at_def is_reply_def split: option.splits)
+  apply (clarsimp simp: valid_bound_obj_def split: option.splits)+
+  apply (clarsimp simp: ARM.valid_arch_tcb_def)+
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:343]: I couldn't find much about valid_arch_tcb. I'm guessing it's not OK to have the ARM. definition in here. What's the approach here?

Comment (lsf37) [reply proof/refine/ARM/IpcCancel_R.thy:343]: This is in an `ARM` subdirectory, so it'd be Ok. The question is more why we're not inside the `Arch` locale here and therefore just `valid_arch_tcb_def` doesn't work.

Comment (lsf37) [reply proof/refine/ARM/IpcCancel_R.thy:343]: You might be able to wrap the whole thing in an 

```
context begin interpretation Arch .
...
end
```

**Comment by lsf37** [comment]
(you'll still need to update the commit message to make gitlint happy)

File: proof/refine/ARM/IpcCancel_R.thy (hunk 1 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/IpcCancel_R.thy:343]: Wrapping it in context worked, thanks!

File: proof/refine/ARM/Schedule_R.thy [hunk 2]
```diff
@@ -3338,16 +3354,72 @@ lemma rescheduleRequired_sch_act_sane[wp]:
...
-    (Invariants_H.valid_queues and valid_queues' and valid_release_queue
-     and valid_release_queue' and (\<lambda>s. weak_sch_act_wf (ksSchedulerAction s) s) and cur_tcb'
-     and tcb_at' t and st_tcb_at' runnable' t and valid_objs')
+    (valid_sched_action and tcb_at t and pspace_aligned and pspace_distinct and valid_tcbs)
+    (valid_queues and valid_queues' and valid_release_queue_iff and valid_tcbs')
       (possible_switch_to t)
       (possibleSwitchTo t)"
+    (is "corres _ _ ?conc_guard _ _")
   supply dc_simp [simp del]
+  apply (rule corres_cross_over_guard
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Schedule_R.thy:3416]: I really like this whole piece. Nicely done!

File: proof/refine/ARM/TcbAcc_R.thy [hunk 3]
```diff
@@ -123,18 +123,34 @@ lemma valid_objs_valid_tcbE':
   apply (fastforce simp: projectKO_def projectKO_opt_tcb return_def valid_tcb'_def)
   done
```
Comment (MitchellBuckley) [inline proof/refine/ARM/TcbAcc_R.thy:125]: I'm generally in favour of introducing this predicate, and I think this implementation will be ok for now. An ideal implementation would make use of projections (depend on some `kheap_tcbs s` rather than `kheap s`).

Comment (MitchellBuckley) [reply proof/refine/ARM/TcbAcc_R.thy:125]: I'm slightly concerned about introducing some duplication of work because we already prove valid_objs' over everything. If we go ahead with this, we will need to keep an eye on that.

File: proof/refine/ARM/IpcCancel_R.thy [hunk 4]
```diff
@@ -219,24 +251,152 @@ lemma reply_unlink_tcb_corres:
...
+  apply (rule setObject_valid_tcb')
+  done
+
+lemma setEndpoint_valid_tcbs'[wp]:
+  "setEndpoint ePtr val \<lbrace>valid_tcbs'\<rbrace>"
+  unfolding valid_tcbs'_def
+  by (wpsimp wp: set_ep'.setObject_wp hoare_vcg_all_lift hoare_vcg_imp_lift'
+           simp: setEndpoint_def)+
+
+(* FIXME RT MICHAEL: move to where invs_queues is *)
```
Comment (MitchellBuckley) [inline proof/refine/ARM/IpcCancel_R.thy:330]: Please move this before merging.

File: proof/refine/ARM/IpcCancel_R.thy [hunk 5]
```diff
@@ -3313,69 +3495,222 @@ lemma cancelBadgedSends_invs[wp]:
              split: option.splits)
   done
 
+lemma corres_return_eq:
```
Comment (MitchellBuckley) [inline proof/refine/ARM/IpcCancel_R.thy:3498]: Very nice. Nitpick: move before merging?

File: proof/refine/ARM/IpcCancel_R.thy [hunk 6]
```diff
@@ -3313,69 +3495,222 @@ lemma cancelBadgedSends_invs[wp]:
...
+  "corres (=) \<top> \<top> (return bool) (return bool)"
+  by (clarsimp simp: corres_underlying_def return_def)
+
+(* Move to just before ep_cancel_corres *)
```
Comment (MitchellBuckley) [inline proof/refine/ARM/IpcCancel_R.thy:3502]: nitpick: move

File: proof/refine/ARM/Schedule_R.thy [hunk 7]
```diff
@@ -487,6 +487,22 @@ lemma ct_idle_or_in_cur_domain'_lift2:
   apply (wp static_imp_wp hoare_vcg_disj_lift | assumption)+
   done
 
+lemma valid_objs_valid_tcbs[elim!]:
```
Comment (mktnk3) [inline proof/refine/ARM/Schedule_R.thy:490]: Please move these to TcbAcc_R, just after the definitions of `valid_tcbs` and `valid_tcbs’`.

File: proof/refine/ARM/Schedule_R.thy [hunk 8]
```diff
@@ -3338,16 +3354,72 @@ lemma rescheduleRequired_sch_act_sane[wp]:
...
+  apply (simp add: rescheduleRequired_def)
+  apply (wpsimp wp: isSchedulable_inv hoare_vcg_if_lift2 hoare_drop_imps)
+  apply (fastforce simp: weak_sch_act_wf_def elim: valid_objs'_maxDomain valid_objs'_maxPriority)
+  done
+
+lemma state_relation_sched_act_relation[elim!]:
+  "(s,s') \<in> state_relation \<Longrightarrow> sched_act_relation (scheduler_action s) (ksSchedulerAction s')"
+  by (clarsimp simp: state_relation_def)
+
+lemma weak_sch_act_wf_at_cross:
```
Comment (mktnk3) [inline proof/refine/ARM/Schedule_R.thy:3380]: Nice!

File: proof/refine/ARM/TcbAcc_R.thy [hunk 9]
```diff
@@ -3607,6 +3688,88 @@ lemma setThreadState_valid_objs'[wp]:
...
+  "tcbSchedEnqueue thread \<lbrace>valid_tcb' tcb\<rbrace>"
+  apply (clarsimp simp: tcbSchedEnqueue_def)
+  apply (rule hoare_seq_ext_skip, wpsimp)
+  apply (clarsimp simp: unless_def when_def)
+  apply (rule hoare_seq_ext_skip, wpsimp)+
+  apply (wpsimp wp: threadSet_valid_tcb')
+  apply (simp add: valid_tcb_tcbQueued)
+  done
+
+lemma tcbSchedEnqueue_valid_tcbs[wp]:
```
Comment (mktnk3) [inline proof/refine/ARM/TcbAcc_R.thy:3732]:
```suggestion
lemma tcbSchedEnqueue_valid_tcbs'[wp]:
```

File: proof/refine/ARM/TcbAcc_R.thy [hunk 10]
```diff
@@ -123,18 +123,34 @@ lemma valid_objs_valid_tcbE':
...
   "\<And>s t. \<lbrakk> valid_objs' s; tcb_at' t s \<rbrakk> \<Longrightarrow> obj_at' (\<lambda>tcb. tcbDomain tcb \<le> maxDomain) t s"
   apply (erule (1) valid_objs_valid_tcbE')
   apply (clarsimp simp: valid_tcb'_def)
   done
 
+lemma valid_tcbs'_maxDomain:
+  "\<And>s t. \<lbrakk> valid_tcbs' s; tcb_at' t s \<rbrakk> \<Longrightarrow> obj_at' (\<lambda>tcb. tcbDomain tcb \<le> maxDomain) t s"
+  apply (clarsimp simp: valid_tcbs'_def obj_at'_def projectKOs valid_tcb'_def)
+  done
+
```
[the remark this answers is not in the document]
Comment (mktnk3) [reply proof/refine/ARM/TcbAcc_R.thy:142]: Moving `valid_objs’_valid_tcbs’` and others somewhere just above here and using it as Matt suggests would be nice.

File: proof/refine/ARM/IpcCancel_R.thy [hunk 11]
```diff
@@ -191,13 +191,45 @@ defs replyUnlink_assertion_def:
     \<equiv> \<lambda>replyPtr state s. state = BlockedOnReply (Some replyPtr)
                           \<or> (\<exists>ep d. state = BlockedOnReceive ep d (Some replyPtr))"
 
+lemma set_reply_obj_ref_valid_tcb[wp]:
```
Comment (mktnk3) [inline proof/refine/ARM/IpcCancel_R.thy:194]: FIXME RT move, please. But it might be too much to label all the ainvs lemmas separately. Maybe you can put them together in one or a few places and label them.

Comment (mktnk3) [reply proof/refine/ARM/IpcCancel_R.thy:194]: I don’t think we need to move them to AInvs at this point, actually. Just putting them together with the definition maybe would be good for now, I think.

File: proof/refine/ARM/TcbAcc_R.thy (hunk 10 above)
[the remark this answers is not in the document]
Comment (michaelmcinerney) [reply proof/refine/ARM/TcbAcc_R.thy:142]: Done, thanks!
